Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Latex / Cymbalta
 
Attending: ___.
 
Chief Complaint:
altered mental status
 
Major Surgical or Invasive Procedure:
hemodialysis

 
History of Present Illness:
___ y/o M with hx of afib, CHF, ESRD on HD and DM presents to the 
hospital with confusion after his neighbor called EMS when she 
hadn't seen him all day. On the scene, the EMS found his 
repeating questions and having difficulty with word finding. ___ 
was ___ and he was given one half D50 amp. In the ED, vitals were 
T 99.7, P 84, BP 113/57 which decreased to SBPs in the ___. Was 
always 100% on RA. Patient received 500 cc bolus and SBPs have 
been in 100s since.  
.  
Upon questioning, the patient states he doesn't think he needed 
to come to the hospital and blames his neighbor for being too 
nosy. He says yesterday was like every other day. He did not 
fall, was getting around with his walker without problems. Did 
not feel confused or weak or dizzy. Denies HAs, vision changes, 
SOB, CP, cough, abdominal pain, nausea, vomitting, diarrhea. No 
dysuria. Last BM was a few days ago. No fevers, chills, weight 
changes. No changes in diet. Denies drugs or excessive alcohol 
use. Does have chronic LLE wound that he says he "picked all the 
skin off." Has bandages that he changes every other day and 
refuses to let other people touch the wound.  

 
Past Medical History:
-CKD on HD, ___  
-CHF with EF 25% in ___  
-DM II  
-Atrial fibrillation  
-Gout  
-Anemia  
-BPH  
-Possible hepatitis 
-Urinary retention 
-Obesity  
-Fatigue  
-s/p left knee surgery  
-history of left frozen shoulder  

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Vitals - T 98.6, BP 105/53, P 98, R 18, 97% on RA  
Gen - in bed, lying down, NAD  
HEENT - ATNC, PERRLA, EOMI, dry mucous membranes, supple neck, 
no JVD, bruits or LAD  
CV - irreg irreg with a ___ systolic murmur at LUSB  
Lungs - CTA B  
Abd - mildly distended, nontender, no hsm or masses, normoactive 
BS  
Ext - R leg with chronic venous changes, L with bandaged weeping 
wound - he will not let any member of the staff examine the leg 
or take the bandages off, does have some scantly bloody 
serosanginous fluid draining from it  
Neuro - CN intact, strength 4+/5 throughout, equal and 
bilaterally, does have B intention tremor, some R handed 
tremoring at rest, other cerebellar functions intact, positive 
asterexis  

 
Pertinent Results:
___ 09:15PM BLOOD WBC-8.3 RBC-3.47* Hgb-12.0* Hct-36.0* 
MCV-104*# MCH-34.5* MCHC-33.2 RDW-14.2 Plt ___
___ 09:20AM BLOOD WBC-8.3 RBC-3.39* Hgb-11.7* Hct-35.4* 
MCV-104* MCH-34.6* MCHC-33.1 RDW-14.2 Plt ___
___ 09:15PM BLOOD Glucose-113* UreaN-59* Creat-8.5*# Na-137 
K-4.9 Cl-96 HCO3-27 AnGap-19
___ 09:20AM BLOOD Glucose-105 UreaN-67* Creat-9.1* Na-139 
K-5.1 Cl-96 HCO3-29 AnGap-19
___ 09:20AM BLOOD ALT-22 AST-22 LD(LDH)-139 AlkPhos-104 
TotBili-0.9
___ 09:15PM BLOOD Calcium-9.0 Phos-5.0*# Mg-2.5
___ 09:20AM BLOOD Calcium-9.1 Phos-6.0* Mg-2.7*
___ 09:15PM BLOOD VitB___* Folate-GREATER TH
___ 09:20AM BLOOD Ammonia-36
___ 09:15PM BLOOD Osmolal-309
___ 09:15PM BLOOD TSH-1.7
___ 09:15PM BLOOD Digoxin-1.3
___ 09:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 09:17PM BLOOD Lactate-1.2
.
LENIs:
IMPRESSION: No DVT in left lower extremity.
.
.
CT of head:
NON-CONTRAST HEAD CT: There is no acute intracranial hemorrhage, 
shift of 
normally midline structures or hydrocephalus. Again seen is a 
stable area of 
low attenuation in the right parietal lobe, consistent with 
encephalomalacia from prior infarct. Linear areas of 
hypoattenuation are 
noted at the left vertex, also present on the prior study. 
  
There is no hydrocephalus. The ventricles and extra-axial sulci 
are 
prominent, consistent with age-related involution. 
  
The imaged paranasal sinuses and mastoid air cells are aerated. 
  
IMPRESSION: No acute intracranial hemorrhage or edema 
.
.
CXR:
FINDINGS: 
The left costophrenic angle as well as the left-sided lower ribs 
have not been 
included at this examination. Within these limitations, there is 
a right- 
sided central line with the tip projected over the right atrium. 
There is 
stable cardiomegaly. There are no focal consolidations. There is 
 
increased interstitial edema since the prior study. 

 
Brief Hospital Course:
___ y/o M with hx of DM, ESRD on HD, CHF and afib presents to the 
ER with altered mental status per report of his neighbor in the 
___ apartment complex.  
.
He received a 500 cc bolus in the ED for SBPs in the ___ and 
some D50 in the field for finger stick of 69.  Pt was feeling 
much better upon arrival to the ED and did not think that he 
needed to be admitted.  Was very upset with his neighbor, but 
was cooperative.
.
His mental status improved over the course of the day.  When he 
was first seen by neurology in ___ ED, he was very somnulent and 
it was difficult to get an appropriate exam because of his 
continued falling asleep.  By afternoon, he was completely alert 
and oriented and appropriate.  His neurological deficits were 
only a mild bilateral tremor which he says is chronic.  No 
weakness, was able to ambulate will with his walker.
.
The likely cause of his altered mental status was drug effect.  
He takes a large amount of gabapentin every day and he knows the 
risk of the high dose with his decreased renal clearance.  He 
rather live with the risks because it takes his pain away.  He 
is trying to transition to topamax with Dr. ___.  It was 
started at his last clinic visit.  We are not going to switch 
any of his medicines at this time.  His low blood sugar may have 
contributed, as well, so we decreased his nighttime dose of 
insulin from 14 units to 10 units.  Other causes may have been 
infection, although he has been afebrile and did not have a 
leukocytosis.  He had a slightly positive UA, but is 
asymptomatic and did not feel that it was worth treating.  He 
also has a weeping LLE wound that he has been picking at over 
the last few weeks.  It is red, but no pus drainage.  It is not 
bothering him.  He did refuse a dose of vanco in the emergency 
room and dose not want treatment.
.
Renal was also consulted today because he was due for dialysis.  
He received dialysis while an inpatient.
.
For this patient, quality of life is the most important goal.  
He likes to have control and was very unhappy while an 
inpatient.  He was discharged home after dialysis with follow up 
in Dr. ___ in ___.  He will continue dialysis 
at his usual place on ___ schedule.  He will also 
continue to take his herbal medicines despite the warnings from 
his PCP and renal doctors.    
 
Medications on Admission:
-Topamax 25 mg BID  
-Coreg 3.125 mg BID  
-Flomax 0.4 mg qhs  
-Renagel 800 mg TID  
-Fosrenal 1 g TID  
-Novolin R 8 units QID SQ  
-Novolin N 18 units in morning, 14 units at night SQ  
-Allopurinol ___ mg daily  
-Temazepam ___ mg q hs prn  
-Bumex 6 mg BID  
-Enalapril 5 mg daily  
-Digoxin 125 mcg qod  
-Oxycontin ___ mg BID  
-Miconazole topical  
-Neurontin 3200 mg daily (divided daily doses)  

 
Discharge Medications:
1. Carvedilol 3.125 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
2. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
3. Sevelamer HCl 800 mg Tablet Sig: One (1) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
4. Lanthanum 500 mg Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO TID W/MEALS (3 TIMES A DAY WITH MEALS).  
5. Allopurinol ___ mg Tablet Sig: 1.5 Tablets PO EVERY OTHER DAY 
(Every Other Day).  
6. Enalapril Maleate 5 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Bumetanide 2 mg Tablet Sig: Three (3) Tablet PO BID (2 times 
a day).  
8. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO EVERY OTHER DAY 
(Every Other Day).  
9. Novolin R 100 unit/mL Solution Sig: Eight (8) units Injection 
four times a day.  
10. Novolin N 100 unit/mL Suspension Sig: Eighteen (18) units 
Subcutaneous qAM.  
11. Novolin N 100 unit/mL Suspension Sig: Ten (10) units 
Subcutaneous at bedtime.  
12. Miconazole Nitrate 2 % Powder Sig: One (1) thin layer 
Topical twice a day.  
13. Topamax 25 mg Tablet Sig: One (1) Tablet PO twice a day: 
Continue transition of neurontin to topamax as previously 
discussed with Dr. ___.  
14. Neurontin 400 mg Capsule Sig: ___ Capsules PO three times a 
day: Can take up to 3200 mg daily in divided doses as you had 
been taking previously.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
1. Altered mental status - unclear etiology
2. End stage renal disease
3. Diabetes
.
Secondary Diagnosis:
1. Atrial fibrillation
2. Congestive Heart Failure

 
Discharge Condition:
vital signs stable, afebrile, SBPs in 100s, ambulating with a 
walker, normal mentation with mild word finding difficulty at 
times.

 
Discharge Instructions:
You were admitted to the hospital because your neighbor thought 
you were confused.  In the emergency room you were slightly more 
sleepy than usual, but we are not sure exactly why that could 
be.  We do not think you have an infection or are in heart 
failure.
.
It may be from a side effect of the medicines you are taking.  
Gabapentin is known to make people confused.  Also, a lot of 
your herbal or over-the-counter medicines are cleared by the 
kidney and may have been building up in your blood stream.  You 
should only take your medicines as prescribed and ask your 
kidney doctor about any other medicines you are going to start.
.
Please be sure to go to dialysis every ___ and ___ 
as well.  It is important not to miss any sessions.
.
Please return to the hospital with any chest pain, shortness of 
breath, abdominal pain, headaches, dizziness, confusion, falls, 
nausea, vomitting or any other concerns.  Call you doctor with 
any questions.  Call ___ if it is an emergency.
.
Weigh yourself every morning, call MD if weight > 3 lbs.
Adhere to 2 gm sodium diet.
 
Followup Instructions:
___